US05082932
110.2 g (0.633 mol) of 7-methoxy-β-naphthol were nitrosated in a mixture of 650 ml of glacial acetic acid and 65 ml of water at 0° C. in the course of two hours using a solution of 45.0 g (0.65 mol) of sodium nitrite in 340 ml of water. Stirring was continued for a further two hours and in this time the temperature of the reaction mixture was allowed to rise to 22° C. Then the volume was made up to 1.6 l with water and the precipitated product was filtered off by suction. After drying, 120.3 g (93.5%) of 1-nitroso-7-methoxy-β-naphthol were obtained.

reactant | 7-methoxy-β-naphthol | 0.633 mol, 110.2 g | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | sodium nitrite | 0.65 mol, 45.0 g | N(=O)[O-].[Na+]
solvent | acetic acid | 650 ml | C(C)(=O)O | C2H4O2
solvent | water | 65 ml | O | H2O
solvent | water | 340 ml | O | H2O
product | 1-nitroso-7-methoxy-β-naphthol | 120.3 g, 93.5% | N(=O)C1=C(C=CC2=CC=C(C=C12)OC)O | C11H9NO3
